US04672137
35 g of crotonaldehyde are added dropwise at 60°-83° C. to a mixture of 133.5 g of ethyl carbamate, 15 g of acid ion exchanger resin (Duolite C 265), 0.2 g of hydroquinone monomethyl ether and 200 ml of trichloroethylene in the course of 20 minutes, and the mixture is thereafter left at 80° C. for 30 minutes. The catalyst is filtered off, the solvent is distilled off and the residue is crystallized from ethyl acetate/petroleum ether. This gives 83 g (52% yield, based on starting crotonaldehyde) of 3-methyl-1,1,3-tri(ethoxycarbonylamino)propane having a melting point of 103°-105° C.

reactant | crotonaldehyde | 35 g | C(\C=C\C)=O | C4H6O
reactant | ethyl carbamate | 133.5 g | C(N)(OCC)=O | C3H7NO2
catalyst | hydroquinone monomethyl ether | 0.2 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | trichloroethylene | 200 ml | ClC=C(Cl)Cl | C2HCl3
product | 3-methyl-1,1,3-tri(ethoxycarbonylamino)propane | 83 g, 52% yield | CC(CC(NC(=O)OCC)NC(=O)OCC)NC(=O)OCC | C13H25N3O6
